US07625902B2
DL-serine (1.051 g) was dissolved in a 1 M aqueous NaOH solution (20 ml). Benzenesulfonyl chloride (1.77 g) was added at 0° C. After 30 min the ice bath was removed and the mixture was stirred for 18 h at room temperature. The mixture was again placed in an ice bath. The mixture was acidified to pH 1 using 25% aqueous HCl. The colorless precipitate was collected by filtration, washed with 1 M HCl and dried to give (RS)-2-benzenesulfonylamino-3-hydroxy-propionic acid (1.23 g) as a colorless solid.

reactant | DL-serine | 1.051 g | NC(CO)C(=O)O | C3H7NO3
reactant | Benzenesulfonyl chloride | 1.77 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | NaOH | 1 M, 20 ml | [OH-].[Na+]
product | (RS)-2-benzenesulfonylamino-3-hydroxy-propionic acid | 1.23 g | C1(=CC=CC=C1)S(=O)(=O)NC(C(=O)O)CO | C9H11NO5S
